US04843087
Concentrated sulfuric acid (1036 ml) was added gradually to 338 ml of water, followed by 622 g of ethyl 4-(6-bromohexyloxy)benzoate. The mixture was heated at 100°-110° C. for 35 minutes and then poured onto 2.5 kg ice with stirring. The mixture was treated with 2520 ml of ammonium hydroxide to bring the pH to 6.0. The product was collected by filtration, washed with water and hexane, and dried in an oven to give 452 g of 4-(6-bromohexyloxy)benzoic acid.

reactant | sulfuric acid | 1036 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 4-(6-bromohexyloxy)benzoate | 622 g | BrCCCCCCOC1=CC=C(C(=O)OCC)C=C1 | C15H21BrO3
reactant | ammonium hydroxide | 2520 ml | [OH-].[NH4+]
solvent | water | 338 ml | O | H2O
product | 4-(6-bromohexyloxy)benzoic acid | 452 g | BrCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H17BrO3
